US06576656B1
(1) 4-Diethylcarbamoyl-1-butyne
The title compound (370 mg, 95%) was prepared from 4-pentynoic acid (250 mg, 2.55 mmol) and diethylamine hydrochloride (310 mg, 2.83 mmol) by the procedure similar to that described in Example 51(1).

reactant | 4-pentynoic acid | 2.55 mmol, 250 mg | C(CCC#C)(=O)O | C5H6O2
reactant | diethylamine hydrochloride | 2.83 mmol, 310 mg | Cl.C(C)NCC
product | 4-Diethylcarbamoyl-1-butyne | 370 mg, 95% | C(C)N(C(=O)CCC#C)CC | C9H15NO
